US04355040
1 g of 1-benzyl-2-n-butyl-4-chloro-5-cyanomethylimidazole was heated in 20 ml of ethanol containing 1 g of hydrogen chloride in a sealed tube at 100° C. for 2 hours. 0.5 ml of water was added to the reaction solution, which was then boiled for 1 hour and evaporated to dryness under reduced pressure. The residue was dissolved in 50 ml of ethyl acetate and, after washing with aqueous sodium bicarbonate, the ethyl acetate layer was evaporated to dryness, and chromatographed on a column of 30 g of silica gel. The column was eluted with benzene-ethyl acetate (4:1), and the main fractions were evaporated to dryness. The residue was dissolved in 1 ml ethanol saturated with hydrogen chloride, and crystallized by adding petroleum ether. After further adding ethyl acetate to separate out in the fully crystallized condition, there was obtained 300 mg of ethyl 1-benzyl-2-n-butyl-4-chloroimidazole-5-acetate hydrochloride. m.p. 101°-103° C.

reactant | 1-benzyl-2-n-butyl-4-chloro-5-cyanomethylimidazole | 1 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC#N)Cl)CCCC | C16H18ClN3
reactant | hydrogen chloride | Cl | ClH
reactant | water | 0.5 ml | O | H2O
reactant | ethanol | 20 ml, 1 g | C(C)O | C2H6O
product | ethyl 1-benzyl-2-n-butyl-4-chloroimidazole-5-acetate hydrochloride | 300 mg | Cl.C(C1=CC=CC=C1)N1C(=NC(=C1CC(=O)OCC)Cl)CCCC | InChI=1S/C18H23ClN2O2.ClH/c1-3-5-11-16-20-18(19)15(12-17(22)23-4-2)21(16)13-14-9-7-6-8-10-14;/h6-10H,3-5,11-13H2,1-2H3;1H
